US07973012B2
(1) Preparation of (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[2-(benzyloxy)-5-[4-[2-[[[(2-hydroxy-1,1-dimethylethyl)amino]carbonyl]amino]ethyl]benzyl]-4-methylphenyl]-D-glucitol
To a chloroform solution (3 mL) of 4-nitrophenyl chloroformate (0.177 g, 0.879 mmol) and pyridine (0.071 mL, 0.88 mmol), which was cooled in ice, was added dropwise a chloroform solution (3 mL) of (1S)-1-[5-[4-(2-aminoethyl)benzyl]-2-(benzyloxy)-4-methylphenyl]-1,5-anhydro-2,3,4,6-tetra-O-benzyl-D-glucitol (0.250 g, 0.293 mmol), and the mixture was stirred for 20 minutes at room temperature. After that, a chloroform solution (3 mL) of 2-amino-2-methyl-1-propanol (0.209 g, 2.344 mmol) and dimethyl sulfoxide (3 mL) were added thereto, and the mixture was stirred overnight at the same temperature. To the reaction solution was added water, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with water and brine (3 times), and dried with anhydrous magnesium sulfate. The drying agent was filtered off, and the solvent was evaporated under reduced pressure to obtain a residue. Thus obtained residue was purified with NH type silica gel column chromatography (chloroform) to obtain the title compound (0.184 g, 65%) as a pale yellow oily compound.

reactant | 4-nitrophenyl chloroformate | 0.879 mmol, 0.177 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | pyridine | 0.88 mmol, 0.071 mL | N1=CC=CC=C1 | C5H5N
reactant | (1S)-1-[5-[4-(2-aminoethyl)benzyl]-2-(benzyloxy)-4-methylphenyl]-1,5-anhydro-2,3,4,6-tetra-O-benzyl-D-glucitol | 0.293 mmol, 0.250 g | NCCC1=CC=C(CC=2C(=CC(=C(C2)[C@H]2[C@H](OCC3=CC=CC=C3)[C@@H](OCC3=CC=CC=C3)[C@H](OCC3=CC=CC=C3)[C@H](O2)COCC2=CC=CC=C2)OCC2=CC=CC=C2)C)C=C1 | C57H59NO6
reactant | 2-amino-2-methyl-1-propanol | 2.344 mmol, 0.209 g | NC(CO)(C)C | C4H11NO
solvent | water | O | H2O
solvent | dimethyl sulfoxide | 3 mL | CS(=O)C | C2H6OS
solvent | chloroform | 3 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 3 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 3 mL | C(Cl)(Cl)Cl | CHCl3
product | (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[2-(benzyloxy)-5-[4-[2-[[[(2-hydroxy-1,1-dimethylethyl)amino]carbonyl]amino]ethyl]benzyl]-4-methylphenyl]-D-glucitol | 0.184 g, 65% | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=C(C=C(C(=C1)CC1=CC=C(C=C1)CCNC(=O)NC(CO)(C)C)C)OCC1=CC=CC=C1 | C62H68N2O8
